US07026326B2
Step A: 1-Methoxycarbonylmethyl-pyridinium chloride.
In a 250 mL round-bottom flask with a stir bar was charged 2-chloromethylacetate (17.5 mL, 0.2 mol), ethyl acetate (50 mL), and pyridine (16.2 mL, 0.2 mol). The overall homogeneous solution was heated with a condenser at 80° C. for 24 h and the resulting heterogeneous white suspension was cooled to room temperature and filtrated under reduced pressure. The off-white filtrate was recrystallized from small amount of ethanol to give the title compound (27.4 g, 73%) as a white solid. MS (ES+): 152 (M)+.

reactant | 2-chloromethylacetate | 0.2 mol, 17.5 mL | ClCCC(=O)[O-]
reactant | pyridine | 0.2 mol, 16.2 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-Methoxycarbonylmethyl-pyridinium chloride | 27.4 g, 73% | [Cl-].COC(=O)C[N+]1=CC=CC=C1 | InChI=1S/C8H10NO2.ClH/c1-11-8(10)7-9-5-3-2-4-6-9;/h2-6H,7H2,1H3;1H/q+1;/p-1
